* C:\users\karmic\Desktop\Learn-ngspice\LTSpice\TriangleWave\VCSAshlesh.asc
V1 N001 0 PULSE(5 -5 0 0 0 50u 100u 100)
C1 N004 0 0.1nf
S1 N005 N004 N001 0 MYSW2 5
S2 N004 N003 N001 0 MYSW1 5
S3 N006 N005 N001 0 MYSW3 5
S4 N003 N002 N001 0 MYSW 5
I1 N003 0 1m
I2 0 N005 2µ
R1 N002 0 1
R2 N006 0 1
.tran 0.001
.model MYSW SW(Ron=1 Roff=1Meg Von=0Voff=5)
.model MYSW1  SW(Ron=1 Roff=1Meg Von=5 Voff=0)
.model MYSW2 SW(Ron=1 Roff=1Meg Von=5 Voff=0)
.model MYSW3 SW(Ron=1 Roff=1Meg Von=0 Voff=5)
.backanno
.end
